US06465664B1
3-(5-hexenyl)cyclopent-2-enone
Mg turnings (972 mg, 40 mmol) were placed into a dry Schlenk flask, then THF (20 mL) was added. 6-Bromo-1-hexene (5.3 mL, 40 mmol) was placed into a separate dry flask, dissolved in THF (20 mL), then added via syringe to the Mg solution. The resulting mixture was heated at 60° C. for 12 h, then cooled to room temperature. The solution of the Grignard reagent was then separated from remaining Mg solid by transferring the solution via syringe to another Schlenk flask. The general procedure for the preparation of substrates using 3-methoxycyclopentenone (2.24 g, 20 mmol) and the solution of the Grignard reagent described above gave, after 24 h and and flash chromatography (4:1 hexanes:ethyl acetate), the title compound as a colorless liquid (2.67 g, 81%). 1H NMR (300 MHz, CDCl3): δ5.95-5.92 (m, 1 H), 5.79 (dddd, J=17.1, 10.2, 6.6, 6.6 Hz, 1 H), 5.06-4.92 (m, 2 H), 2.66 -2.54 (m, 2 H), 2.48-2.37 (m, 4 H), 2.15 -2.04 (m, 2 H), 1.69-1.54 (m, 2 H), 1.53-1.39 (m, 2 H). 13C NMR (75 MHz, CDCl3): δ6209.9, 182.9, 138.3, 129.4, 114.8, 35.4, 33.5, 33.4, 31.6, 28.6, 26.6. IR (neat): 2929, 2860, 1706, 1615, 1437, 1183, 994, 909, 839 cm−1.

reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | 6-Bromo-1-hexene | 40 mmol, 5.3 mL | BrCCCCC=C | C6H11Br
reactant | 3-methoxycyclopentenone | 20 mmol, 2.24 g | COC1=CC(CC1)=O | C6H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-hexenyl)cyclopent-2-enone | 2.67 g, 81% | C(CCCC=C)C1=CC(CC1)=O | C11H16O
